US05256780
A solution of N-[2-(3-benzylindol-2-yl)ethyl]-1-imidazolecarboxamide (2.4 g) in xylene (50 ml) was refluxed for 3 hours. After cooling, the mixture was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (5%-methanol-chloroform) to give a crystalline product. The product was pulverized with n-hexane to give 5-benzyl-3,4-dihydropyrimido[1,6-a]indol-1(2H)-one (1.2 g).

reactant | N-[2-(3-benzylindol-2-yl)ethyl]-1-imidazolecarboxamide | 2.4 g | C(C1=CC=CC=C1)C1=C(NC2=CC=CC=C12)CCNC(=O)N1C=NC=C1 | C21H20N4O
reactant | n-hexane | CCCCCC | C6H14
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-benzyl-3,4-dihydropyrimido[1,6-a]indol-1(2H)-one | 1.2 g | C(C1=CC=CC=C1)C1=C2N(C3=CC=CC=C13)C(NCC2)=O | C18H16N2O
